US04377580
A mixture of 2-bromo-4-ethylaniline (29.2 g) and cuprous cyanide (14.4 g) in dry pyridine (25.4 g) was stirred for 16 hours at 160° C. After cooling to 60° C., the resultant mixture was poured into a mixture (250 ml) of conc. aqueous ammonia and water (1:1) with stirring. To the resultant mixture was added ethyl acetate (300 ml) with stirring. Insoluble materials were filtered off. The organic layer was washed three times with water and with aqueous solution saturated with sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give an oily residue, to which was added benzene and concentrated under reduced pressure. These operations were repeated twice to remove pyridine. The resultant oily residue was subjected to a column chromatography using silica gel (developing solvent: a mixture of benzene and hexane (3:1)) to give 2-amino-4-ethylbenzonitrile (16.4 g).

reactant | 2-bromo-4-ethylaniline | 29.2 g | BrC1=C(N)C=CC(=C1)CC | C8H10BrN
reactant | ammonia | 250 ml | N | H3N
reactant | water | O | H2O
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | pyridine | 25.4 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-amino-4-ethylbenzonitrile | 16.4 g | NC1=C(C#N)C=CC(=C1)CC | C9H10N2
